### PR TITLE
[Merged by Bors] - feat: `star` structures on `ContinuousLinearMapWOT`

### PR DESCRIPTION
**Pull request by j-loreaux**
In particular, with these instances it makes sense to consider the `StarSubalgebra.topologicalClosure` of some `S : StarSubalgebra 𝕜 (F →WOT[𝕜] F)`.

---

- [ ] depends on: #37914

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/WeakOperatorTopology.lean [hunk 1]
```diff
@@ -18,6 +20,25 @@ applications of elements of the dual and inner products with vectors in the spac
...
+injective map that preserves `star` and `•` to a star module. See note [reducible non-instances]. -/
+protected lemma Function.Injective.starModule {R S : Type*} (𝕜 : Type*) [Star 𝕜] [SMul 𝕜 R]
+    [Star R] [SMul 𝕜 S] [Star S] [StarModule 𝕜 S] {f : R → S}
+    (star : ∀ x, f (star x) = star (f x)) (smul : ∀ (r : 𝕜) x, f (r • x) = r • f x)
+    (hf : Injective f) :
+    StarModule 𝕜 R where
+  star_smul r x := hf <| by rw [star, smul, star_smul, smul, star]
+
+/-- Transfer `StarModule` across an `Equiv` -/
+protected lemma Equiv.starModule {R S : Type*} (e : R ≃ S) (𝕜 : Type*)
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/WeakOperatorTopology.lean]: you added these to the other (now merged) PR, right?

File: Mathlib/Analysis/InnerProductSpace/WeakOperatorTopology.lean [hunk 2]
```diff
@@ -30,18 +51,57 @@ lemma ext_inner {A B : E →WOT[𝕜] F} (h : ∀ x y, ⟪y, A x⟫_𝕜 = ⟪y,
...
+
+lemma continuous_iff {α : Type*} [TopologicalSpace α] {f : α → E →WOT[𝕜] F} :
+    Continuous f ↔ ∀ x y, Continuous (⟪y, f · x⟫_𝕜) := by
+  simp_rw [continuous_iff_continuousAt, forall_comm (α := E) , forall_comm (α := F),
+    continuousAt_iff]
+
+alias ⟨continuousWithinAt_of, continuousWithinAt⟩ := continuousWithinAt_iff
+alias ⟨continuousOn_of, continuousOn⟩ := continuousOn_iff
+alias ⟨continuousAt_of, continuousAt⟩ := continuousAt_iff
+alias ⟨continuous_of, continuous⟩ := continuous_iff
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/WeakOperatorTopology.lean]: should any of these be `fun_prop`s?

**Comment by themathqueen** [comment]
Adding the `awaiting-author` label for now because I think there are merge conflicts, please merge master :)

File: Mathlib/Analysis/InnerProductSpace/WeakOperatorTopology.lean [hunk 3]
```diff
@@ -30,18 +32,57 @@ lemma ext_inner {A B : E →WOT[𝕜] F} (h : ∀ x y, ⟪y, A x⟫_𝕜 = ⟪y,
...
+    ContinuousWithinAt f s a ↔ ∀ x y, ContinuousWithinAt (⟪y, f · x⟫_𝕜) s a :=
+  tendsto_iff_forall_inner_apply_tendsto
+
+lemma continuousAt_iff {α : Type*} [TopologicalSpace α] {f : α → E →WOT[𝕜] F} {a : α} :
+    ContinuousAt f a ↔ ∀ x y, ContinuousAt (⟪y, f · x⟫_𝕜) a :=
+  tendsto_iff_forall_inner_apply_tendsto
+
+lemma continuousOn_iff {α : Type*} [TopologicalSpace α] {f : α → E →WOT[𝕜] F} {s : Set α} :
+    ContinuousOn f s ↔ ∀ x y, ContinuousOn (⟪y, f · x⟫_𝕜) s := by
+  simp_rw [ContinuousOn, forall_comm (α := E) , forall_comm (α := F), continuousWithinAt_iff]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/WeakOperatorTopology.lean]:
```suggestion
  simp_rw [ContinuousOn, forall_comm (α := E), forall_comm (α := F), continuousWithinAt_iff]
```

File: Mathlib/Analysis/InnerProductSpace/WeakOperatorTopology.lean [hunk 4]
```diff
@@ -30,18 +32,57 @@ lemma ext_inner {A B : E →WOT[𝕜] F} (h : ∀ x y, ⟪y, A x⟫_𝕜 = ⟪y,
...
+
+lemma continuous_iff {α : Type*} [TopologicalSpace α] {f : α → E →WOT[𝕜] F} :
+    Continuous f ↔ ∀ x y, Continuous (⟪y, f · x⟫_𝕜) := by
+  simp_rw [continuous_iff_continuousAt, forall_comm (α := E) , forall_comm (α := F),
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/WeakOperatorTopology.lean]:
```suggestion
  simp_rw [continuous_iff_continuousAt, forall_comm (α := E), forall_comm (α := F),
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by faenuccio** [comment]
Thanks! Can we take this opportunity to populate the file docstring with some results in the file so that it becomes less vague?

bors d+

**Comment by j-loreaux** [comment]
bors merge
